US08604029B2
A solution of 2-chloro-4,6-dimethyl-pyridine (1 g, 7.09 mmol) and piperazine (2 g, 23.2 mmol) in DMSO was heated at 140° C. for 24 h. The mixture was allowed to cool, diluted with water and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give a residue which was purified by column chromatography on silica gel (60-120 mesh), eluting with 5% methanol/chloroform to afford 1-(4,6-dimethyl-pyridin-2-yl)-piperazine (0.7 g, 52%).

reactant | 2-chloro-4,6-dimethyl-pyridine | 7.09 mmol, 1 g | ClC1=NC(=CC(=C1)C)C | C7H8ClN
reactant | piperazine | 23.2 mmol, 2 g | N1CCNCC1 | C4H10N2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-(4,6-dimethyl-pyridin-2-yl)-piperazine | 0.7 g, 52% | CC1=CC(=NC(=C1)C)N1CCNCC1 | C11H17N3
